US06022894
EXAMPLE 43: Preparation of N-(2-Hydroxydecanyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 5, supra, 1,2-epoxydecane (204 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 73 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 214 (M-121, 100), 196 (27.8), 163 (10), 121 (2.2); 1H-NMR (CDCl3) δ 7.08 (2H, d, J=8.6), 6.83 (2H, d, J=8.6), 3.79 (3H, s), 3.53 (1H, m), 2.79 (1H, dd, J=11.7 and 2.9), 2.67 (2H, s), 2.42 (1H, dd, J=12.6 and 9.6), 1.26 (18 H, m), 1.08 (3H, s), 0.88 (3H, t, J=6.6); 13C-NMR (CDCl3) δ 158.2, 131.4, 129.8, 113.5, 77.2, 69.8, 55.2, 53.8, 47.8, 46.5, 35.1, 31.9, 29.8, 29.7, 29.6, 29.3, 26.6, 26.4, 25.7, 22.7, 14.1; FT-IR (film) cm-1 3399 (broad s), 1612, 1512, 1246, 1039, 823.

reactant | 1,2-epoxydecane | 1.0 mmol, 204 mg | O1CC1CCCCCCCC | C10H20O
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxydecanyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 73 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)CCCCCCCC | C21H37NO2
